US06143764
6,7-Dimethoxy-4-(5-quinolyloxy)quinoline [14]
4-Chloro-6,7-dimethoxyquinoline (50 mg) and commercially available 5-hydroxyquinoline (50 mg) were mixed and stirred at 170° C. for 10 minutes. The reaction mixture was neutralized with saturated aqueous sodium hydrogen carbonate and then partitioned between water and ethyl acetate, and the ethyl acetate layer was washed with brine and then dried with anhydrous sodium sulfate. After removing the solvent by reduced-pressure distillation, the resulting residue was purified by thin layer chromatography on silica gel eluting first with hexane/ethyl acetate (1/1) and then with chloroform/methanol (50/1) to obtain 47 mg of the title compound (yield: 64%).

reactant | 4-Chloro-6,7-dimethoxyquinoline | 50 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | 5-hydroxyquinoline | 50 mg | OC1=C2C=CC=NC2=CC=C1 | C9H7NO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 6,7-Dimethoxy-4-(5-quinolyloxy)quinoline | 47 mg, yield: 64% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C2C=CC=NC2=CC=C1 | C20H16N2O3
